US07842685B2
Methyl 1-((4-(5-chlorothiazolo[5,4-b]pyridine-2-yl)-3-fluorophenyl)methyl)azetidine-3-carboxylate (1.40 g, 3.57 mmol), 1,1,1,2,2,2-hexamethyldistannane (2.34 g, 7.15 mmol), and tetrakis(triphenylphosphine) palladium (0) (0.206 g, 0.179 mmol) were combined in a 75 mL sealable vessel under argon. 15 mL dioxane was added, and the reaction mixture was sealed and heated to 70° C. overnight. The reaction mixture was adsorbed onto 10 g silica gel with DCM, drying, and purified by silica gel chromatography, 0-100% EA/hexanes, to give methyl 1-((3-fluoro-4-(5-(trimethylstannyl)-thiazolo[5,4-b]pyridine-2-yl)phenyl)methyl)azetidine-3-carboxylate as a light yellow solid. MS (ESI) m/z: calculated: 521.1; Observed: 522.0 (M++1).

reactant | Methyl 1-((4-(5-chlorothiazolo[5,4-b]pyridine-2-yl)-3-fluorophenyl)methyl)azetidine-3-carboxylate | 3.57 mmol, 1.40 g | ClC1=CC=C2C(=N1)SC(=N2)C2=C(C=C(C=C2)CN2CC(C2)C(=O)OC)F | C18H15ClFN3O2S
reactant | 1,1,1,2,2,2-hexamethyldistannane | 7.15 mmol, 2.34 g | C[Sn]([Sn](C)(C)C)(C)C
reactant | dioxane | 15 mL | O1CCOCC1 | C4H8O2
catalyst | tetrakis(triphenylphosphine) palladium (0) | 0.179 mmol, 0.206 g | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
solvent | DCM | C(Cl)Cl | CH2Cl2
product | methyl 1-((3-fluoro-4-(5-(trimethylstannyl)-thiazolo[5,4-b]pyridine-2-yl)phenyl)methyl)azetidine-3-carboxylate | FC=1C=C(C=CC1C=1SC2=NC(=CC=C2N1)[Sn](C)(C)C)CN1CC(C1)C(=O)OC | InChI=1S/C18H15FN3O2S.3CH3.Sn/c1-24-18(23)12-9-22(10-12)8-11-4-5-13(14(19)7-11)16-21-15-3-2-6-20-17(15)25-16;;;;/h2-5,7,12H,8-10H2,1H3;3*1H3;
